US05919782
4- [1-(Ethoxycarbonyl)piperidin-4-yloxy]benzaldehyde:
To a mixture of 1-(ethoxycarbonyl)piperidin-4-yl methanesulfonate (10 g) and 4-hydroxy benzaldehyde (5.8 g) in dry DMF (75 ml), K2CO3 (11 g) was added and the mixture was stirred at 80° C. for 12 h. At the end of this time, the reaction mixture was cooled, added water and extracted with EtOAc. The EtOAc extract was washed with 5% aqueous Na2CO3 solution followed by brine and dried over anhydrous sodium sulphate. The solvent was then removed by distillation under reduced pressure to give 7 g (63.6%) of the title compound as a semi solid.

reactant | 1-(ethoxycarbonyl)piperidin-4-yl methanesulfonate | 10 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OCC | C9H17NO5S
reactant | 4-hydroxy benzaldehyde | 5.8 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 11 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 4- [1-(Ethoxycarbonyl)piperidin-4-yloxy]benzaldehyde | 7 g, 63.6% | C(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C15H19NO4
